US08217069B2
To a suspension of methyl 2-chloro-4-[2-chloro-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyphenylamino]-6-methylpyrimidine-5-carboxylate (0.42 g), which was prepared in a similar manner to that described in Example 380 using methyl 2,4-dichloro-6-methylpyrimidine-5-carboxylate instead of ethyl 4-chloro-6-methylpyrimidine-5-carboxylate, in N,N-dimethylformamide (12 mL) were added water (2 mL) and sodium azide (0.26 g), and the mixture was stirred at 60° C. for 2 hours. To the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. To the residue were added tetrahydrofuran (12 mL), methanol (12 mL) and 10% platinum-carbon powder (0.1 g), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. To the mixture were added tetrahydrofuran (12 mL) and 2 mol/L aqueous sodium hydroxide solution (12 mL), and the resulting mixture was stirred at 60° C. for 2 hours. The insoluble material was removed by filtration, and the filtrate was acidified by adding 1 mol/L hydrochloric acid. The precipitated crystals were collected by filtration. The crystals were washed with water, and dried under reduced pressure to give 2-amino-4-[2-chloro-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyphenylamino]-6-methylpyrimidine-5-carboxylic acid (0.35 g). To this material were added 1,4-dioxane (30 mL), tetrahydrofuran (10 mL), triethylamine (3 mL) and diphenylphosphoryl azide (0.38 mL), and the reaction vessel was equipped with a reflux condenser, and the mixture was stirred at 100° C. overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate−ethyl acetate/methanol=10/1) to give the title compound (0.2 g).

reactant | methyl 2-chloro-4-[2-chloro-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyphenylamino]-6-methylpyrimidine-5-carboxylate | 0.42 g | ClC1=NC(=C(C(=N1)NC1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)C(=O)OC)C | C22H19Cl2F2N3O5
reactant | methyl 2,4-dichloro-6-methylpyrimidine-5-carboxylate | ClC1=NC(=C(C(=N1)Cl)C(=O)OC)C | C7H6Cl2N2O2
reactant | water | 2 mL | O | H2O
reactant | sodium azide | 0.26 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | 2-amino-4-[2-chloro-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyphenylamino]-6-methylpyrimidine-5-carboxylic acid | 0.35 g | NC1=NC(=C(C(=N1)NC1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)C(=O)O)C | C21H19ClF2N4O5
